Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[H:10][H:11].[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O+:4]=[C-:5][O:6]1)\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],33.42264959954352
[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C:4][C:5]([H:11])([H:12])[H:13])[H:6],88.05240509170669
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[O-:1][N+:6]#[C:5][C:4]1=[C:3]=[C:2]1[H:7],143.977264352104
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2](=[C:3](/[C:4]#[N:5])[H:12])(\[C:6]#[C:7][H:14])[H:13]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],102.39374636435441
[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]2=[C:5]([H:10])[N:7]=[C:6]12>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],22.33203633614751
[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]3([H:9])[N:4]([H:10])[C@@:5]2([H:11])[C@:6]13[H:12]>>[N:1](=[C:6](/[C@:3]1([H:9])[C:2]([H:8])=[C:5]([H:11])[N:4]1[H:10])[H:12])\[H:7],31.0562490347812
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]=[O:5])([H:7])([H:8])[H:9].[N:6]([H:10])([H:14])[H:15],68.43743025365721
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[H:7][H:8].[O:1]=[C:2]([C:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])[H:9],85.9618309690818
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6](=[O:7])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[H:17][H:19]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],76.586269224804
[C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[C:6]([H:16])[H:18])([H:14])[H:15].[H:13][H:17]>>[C:1]([C:2]([C:3]([O:4][H:13])([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],34.62840141045049
[C:1]([C:3]1([C:2]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]1([H:15])[H:16])[H:7]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16],0.32685403922761225
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:8])([H:13])[H:14])([H:11])[H:12])([C:6](=[O:7])[H:15])([H:9])[H:10],88.93562766477359
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]1=[C+:6][N:7]([H:13])[N-:5]1)([H:11])[H:12])([H:8])([H:9])[H:10],125.144613550828
[C:1]([C@:2]1([H:11])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C@:6]1([O:7][H:21])[H:19])([H:8])([H:9])[H:10].[H:12][H:20]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],86.72456233207362
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:2](=[O+:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])[H:12].[C:1]([H:8])([H:9])([H:10])[H:11],74.4521486377663
[O:1]([C-:2]=[C:3]=[C+:4][C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7],30.895242743803486
[N:1]([c:2]1[n:3]([H:10])[o:4][c:5](=[O:6])[n:7]1)([H:8])[H:9]>>[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9],66.09215699289389
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:4]([C:2](=[O:3])[H:10])([C:5]#[N:6])[H:12])([H:7])([H:8])[H:9].[H:11][H:13],82.9638098618047
[C-:1]([C:2]([C:3](=[O+:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])[H:9].[C:4]([H:8])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],9.977366158557288
[C:1](/[C:2](=[N:5]\[H:15])[H:11])([H:8])([H:9])[H:10].[C:3](=[O:4])([H:12])[H:13].[C:6](=[O:7])([H:14])[H:16]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],24.425275371995703
[C:1]1([H:7])([H:10])[C:2][C@@:3]2([H:8])[C@:4]1([H:9])[C:5]([H:11])([H:12])[O:6]2>>[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],34.9188841535998
[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10]>>[O:1]=[C:3]([C@@:4]1([H:9])[O:5][C@:6]1([C:2][H:7])[H:10])[H:8],41.2441976534784
[O:1]([C:2]([C:3]([C:4]#[N:5])([H:9])[H:10])([H:7])[H:8])[H:6]>>[H:6][H:7].[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:9])[H:10])[H:8],81.9424136023398
[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:7][H:9].[O:1]=[C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])[H:8],90.7632560990084
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[C-:4]#[O+:5].[N:1](=[C:2](\[O:3][H:9])[C:6]#[N:7])\[H:8],45.75619180179361
